US06806277B2
1.37 cm3 of 5N aqueous sodium hydroxide solution are added with stirring, at a temperature in the region of 20° C., to a solution of 0.9 g of methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop 2-ynyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 9 cm3 of dioxane and then the combined mixture is brought to a temperature in the region of 60° C. for 16 hours. The mixture is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45μ; mass 40 g), elution being carried out with a dichloromethane/methanol (90/10 by volume) mixture, a dichloromethane/methanol (80/20 by volume) mixture, a dichloromethane/methanol (60/40 by volume) mixture and a dichloromethane/methanol/triethylamine (74/25/1 by volume) mixture, with 100-cm3 fractions being collected Fractions 16 to 29 (which contain the purified product) are combined and then concentrated to dryness under the above conditions. The residue obtained is taken up in 30 cm3 of isopropyl ether, filtered off, washed 2 times with 20 cm3 of diethyl ether and then purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45μ; diameter 2.3 cm; mass 25 g), elution being carried out with a dichloromethane/methanol (95/05 by volume) mixture. Fractions 4 to 7 are combined and then concentrated to dryness under the above conditions. The solid obtained is taken up in 25 cm3 of isopropyl ether, filtered off, washed 3 times with 10 cm3 of pentane and dried to afford 0.304 g of (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid.

reactant | sodium hydroxide | 5N, 1.37 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop 2-ynyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.9 g | FC1=C(C=C(C=C1F)F)C#CCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)N)C(=O)OC | C29H30F3N3O3
solvent | dioxane | 9 cm3 | O1CCOCC1 | C4H8O2
solvent | isopropyl ether | 30 cm3 | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 25 cm3 | C(C)(C)OC(C)C | C6H14O
product | (3R,4R)-1-[3-(2,3,5-trifluorophenyl)prop-2-ynyl]-4-[3-(R,S)-amino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid | 0.304 g | FC1=C(C=C(C=C1F)F)C#CCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)N)C(=O)O | C28H28F3N3O3
